US06265349B1
Preparation of 1-amino-3-(2,4-dichlorophenyl)-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-5)
10 ml of DMF was added to 0.10 g of 60% sodium hydride, and 0.72 g of 3-(2,4-dichlorophenyl)-6-trifluoromethyl-2(1H)-pyridone was added thereto under cooling with ice, followed by stirring further at room temperature for 30 minutes. Then, 0.47 g of 2,4-dinitrophenoxyamine was added thereto at room temperature. Then, the mixture was stirred at 50° C. for 1 hour to complete the reaction. After completion of the reaction, the reaction solution was washed with water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off to obtain a crude product. This crude product was purified by silica gel column chromatography to obtain 0.50 g (yield: 68%) of the desired product. Melting point: 98-100° C.

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 3-(2,4-dichlorophenyl)-6-trifluoromethyl-2(1H)-pyridone | 0.72 g | ClC1=C(C=CC(=C1)Cl)C=1C(NC(=CC1)C(F)(F)F)=O | C12H6Cl2F3NO
reactant | 2,4-dinitrophenoxyamine | 0.47 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-amino-3-(2,4-dichlorophenyl)-6-trifluoromethyl-2(1H)-pyridone | 0.50 g, yield: 68% | NN1C(C(=CC=C1C(F)(F)F)C1=C(C=C(C=C1)Cl)Cl)=O | C12H7Cl2F3N2O
